US07872009B2
Step 4: Benzyl 4-(2-azidoacetyl)morpholine-2-carboxylate
In a 25-mL round-bottom flask, the benzyl 4-(2-chloroacetyl)morpholine-2-carboxylate (0.262 g, 0.88 mmol) was dissolved in dmf (4 mL). Sodium azide (0.066 g, 1.0 mmol) was added, and the flask was placed in a 60 deg oil bath overnight. The reaction was concentrated, and the residue was taken up in 80% ether-hexane (60 mL) and the organic layer was extracted with dilute sodium bicarbonate (2×7 mL) then with saturated brine (7 mL), then was dried over magnesium sulfate, filtered, and concentrated. The residue was purified through silica gel (50 mL) which had been deactivated with TEA (5 mL) using 60% EtOAc-hexane to afford the title compound (230 mg, 0.76 mmol). MS m/z 305 (M+1).

reactant | benzyl 4-(2-chloroacetyl)morpholine-2-carboxylate | 0.88 mmol, 0.262 g | ClCC(=O)N1CC(OCC1)C(=O)OCC1=CC=CC=C1 | C14H16ClNO4
reactant | Sodium azide | 1.0 mmol, 0.066 g | [N-]=[N+]=[N-].[Na+]
product | Benzyl 4-(2-azidoacetyl)morpholine-2-carboxylate | 0.76 mmol, 230 mg | N(=[N+]=[N-])CC(=O)N1CC(OCC1)C(=O)OCC1=CC=CC=C1 | C14H16N4O4
